US06943172B2
3-nitrobenzoylchloride (5.0 g, 26.94 mmol) was added to a solution of thioanisole (3.16 ml, 26.94 mmol) and 1,2-dichlorethane (95 mL). The resulting reaction mixture was cooled to 0° C. (ice/H2O bath) and 0.5 equivalents of aluminum trichloride (1.8 g, 13.47 mmol) was added. The reaction was allowed to stir for 15 min at this temperature and the cold bath was removed followed by addition of the remaining equivalents of AlCl3 (2.51 g, 18.87). The reaction solution turned a dark greenish/yellow and was allowed to stir at room temp. for 18 h, after which time the reaction was quenched slowly with H2O (50 mL). The mixture was diluted with CH2Cl2 (50 mL) and washed with H2O (3×50 mL), and the combined organic phases were washed with satd NaHCO3 (50 mL), dried (MgSO4) and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography (EtOAc/hexane, ¼) to afford 3.3 g (44%) of 4-(methylsulfanyl)phenyl](3-nitrophenyl)methanone as a solid. EI-LRMS m/z 274 (M+); TLC Rf 0.68 (EtOAc/Hex, ⅔). Step 2. Preparation of (3-aminophenyl)[4-(methylsulfanyl)phenyl]methanone

reactant | 3-nitrobenzoylchloride | 26.94 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | thioanisole | 26.94 mmol, 3.16 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | aluminum trichloride | 13.47 mmol, 1.8 g, 0.5 equivalents | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,2-dichlorethane | 95 mL | ClCCCl | C2H4Cl2
product | (3-nitrophenyl)methanone | [N+](=O)([O-])C=1C=C(C=CC1)C=O | C7H5NO3
